US08349827B2
Step 2: Preparation of N,N-diethyl-2-(o-tolylamino)nicotinamide
To a solution of 2-chloro-N,N-diethylnicotinamide (10.0 g, 47.2 mmol) and o-toluidine (5.0 g, 47.2 mmol) in 1,4-Dioxane (50 mL) was added sodium hydride (60%, 4.72 g, 118 mmol). After addition, the reaction mixture was heated at 100° C. for 2 hours. The reaction mixture was then cooled to room temperature, diluted with dichloromethane (100 mL), washed with water (3×50 mL), dried over sodium sulfate and concentrated under reduced pressure. The crude product was purified by flash chromatography (SiO2, 50% hexane in ethyl acetate) to afford the desired product, N,N-diethyl-2-(o-tolylamino)nicotinamide (6.0 g) as a yellow oil. LCMS: 284 [M+H].

reactant | 2-chloro-N,N-diethylnicotinamide | 47.2 mmol, 10.0 g | ClC1=C(C(=O)N(CC)CC)C=CC=N1 | C10H13ClN2O
reactant | o-toluidine | 47.2 mmol, 5.0 g | NC=1C(=CC=CC1)C | C7H9N
reactant | sodium hydride | 118 mmol, 4.72 g | [H-].[Na+]
solvent | 1,4-Dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N,N-diethyl-2-(o-tolylamino)nicotinamide | 6.0 g | C(C)N(C(C1=C(N=CC=C1)NC1=C(C=CC=C1)C)=O)CC | C17H21N3O
